US09260408B2
N-((5-Bromopyridin-3-yl)methyl)-N-ethylethanesulfonamide
To a solution of ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide (intermediate A-11, 0.051 g, 0.182 mmol) in DMF (3 mL) cooled at 0° C. with an ice bath was added 60% NaH in mineral oil (0.011 g, 0.274 mmol) and the mixture was stirred at room temperature for 20 min. Then, iodoethane (0.045 g, 0.292 mmol) was added and the reaction mixture was stirred for 3 h before being quenched with water (5 mL). The aqueous solution was extracted with EtOAc (2×15 mL). Combined organics were dried over Na2SO4, filtered and evaporated to dryness to give the title compound (0.051 g, 82%) as orange oil which was used with no further purification. MS: 307.1 and 309.2 (M+H+).

reactant | ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide | 0.182 mmol, 0.051 g | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | NaH | [H-].[Na+]
reactant | iodoethane | 0.292 mmol, 0.045 g | ICC | C2H5I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-((5-Bromopyridin-3-yl)methyl)-N-ethylethanesulfonamide | 0.051 g, 82% | BrC=1C=C(C=NC1)CN(S(=O)(=O)CC)CC | C10H15BrN2O2S
